US05728835
4-Nitro-N-[2-(4-benzoyl-1-piperidinyl)ethyl]-N-(3-pyridyl)benzamide
In an atmosphere of argon, 4-nitro-N-(3-pyridyl)benzamide (973 mg, 4.00 mmol) was dissolved in DMF (10 ml) to which was subsequently added sodium hydride (176 mg, 60%, 4.40 mmol) at room temperature, stirred for 1 hour at 60° C., and added dropwise 1-(2-chloroethyl)-4-benzoylpiperidine (1.38 g, 5.49 mmol) and a catalytically effective amount of a DMF solution (12 ml) of sodium iodide. After 4 hours of stirring at 60° C., the reaction solution was mixed with saturated sodium chloride aqueous solution and extracted with ethyl acetate. The resulting organic layer was washed with saturated sodium chloride aqueous solution and water in that order, and dried on anhydrous sodium sulfate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by recrystallization (ethyl acetate-ether) to obtain 439.6 mg (24.0%) of the title compound in a light yellow powder form.

reactant | 4-nitro-N-(3-pyridyl)benzamide | 4.00 mmol, 973 mg | [N+](=O)([O-])C1=CC=C(C(=O)NC=2C=NC=CC2)C=C1 | C12H9N3O3
reactant | sodium hydride | 4.40 mmol, 176 mg | [H-].[Na+]
reactant | 1-(2-chloroethyl)-4-benzoylpiperidine | 5.49 mmol, 1.38 g | ClCCN1CCC(CC1)C(C1=CC=CC=C1)=O | C14H18ClNO
reactant | sodium iodide | [I-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4-Nitro-N-[2-(4-benzoyl-1-piperidinyl)ethyl]-N-(3-pyridyl)benzamide | 439.6 mg, 24.0% | [N+](=O)([O-])C1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=CC=C2)=O)C=C1 | C26H26N4O4
